US06759420B1
a) 3-(4-Nitro-phenyl)-2-(3-trifluoromethyl-phenyl)-acrylic acid
A solution of (3-trifluoromethyl-phenyl)-acetic acid (7.5 g, 36.7 mmol), 4-nitro-benzaldehyde (5.55 g, 36.7 mmol), triethylamine (4.8 g, 47.8 mmol), and acetic anhydride (14.3 g, 140 mmol) was refluxed for 6 hours. The reaction mixture was poured in acidified water (sulfuric acid, pH 1) and extracted with ethyl acetetate. The organic layer was evaporated and the residue was stirred with sodium bicarbonate solution. The precipitate was sucked off and the filtrate extracted with ethyl acetate. The water was acidified with hydrochloric acid and the resulting oil extracted with ethyl acetate to give 9.9 g of the desired product (80% yield).

reactant | (3-trifluoromethyl-phenyl)-acetic acid | 36.7 mmol, 7.5 g | FC(C=1C=C(C=CC1)CC(=O)O)(F)F | C9H7F3O2
reactant | 4-nitro-benzaldehyde | 36.7 mmol, 5.55 g | [N+](=O)([O-])C1=CC=C(C=O)C=C1 | C7H5NO3
reactant | triethylamine | 47.8 mmol, 4.8 g | C(C)N(CC)CC | C6H15N
reactant | acetic anhydride | 140 mmol, 14.3 g | C(C)(=O)OC(C)=O | C4H6O3
solvent | water | pH 1 | O | H2O
product | 3-(4-Nitro-phenyl)-2-(3-trifluoromethyl-phenyl)-acrylic acid | 9.9 g, 80% yield | [N+](=O)([O-])C1=CC=C(C=C1)C=C(C(=O)O)C1=CC(=CC=C1)C(F)(F)F | C16H10F3NO4
